US08580781B2
Preparation of 6-(5-methyl-1,2,4-oxadiazol-3-yl)-2H-pyridazin-3-one
2.8 ml of glacial acetic acid, 2.3 ml of acetic anhydride and 200 μl of pyridine are added to 375 mg (2.43 mmol) of N-hydroxy-6-oxo-1,6-dihydropyridazine-3-carboxamidine, and the mixture is stirred at 90° C. for 15 h. During cooling of the reaction mixture, a precipitate forms, which is filtered off with suction, washed with water and dried in vacuo; yield: 253 mg, yellow solid; HPLC: Rt=1.51 min; LC-MS: 179 (M+H).

reactant | acetic acid | 2.8 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 2.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-hydroxy-6-oxo-1,6-dihydropyridazine-3-carboxamidine | 2.43 mmol, 375 mg | ONC(=N)C1=NNC(C=C1)=O | C5H6N4O2
solvent | pyridine | 200 μl | N1=CC=CC=C1 | C5H5N
product | 6-(5-methyl-1,2,4-oxadiazol-3-yl)-2H-pyridazin-3-one | CC1=NC(=NO1)C=1C=CC(NN1)=O | C7H6N4O2
